US07078428B2
0.22 g of sodium is added to 20 cm3 of absolute ethanol under an inert atmosphere. After the sodium has totally disappeared, 0.94 g of guanidinium chloride is added. The reaction mixture is stirred under an inert atmosphere at a temperature in the region of 20° C. for 1 hour, followed by addition of a solution of 2 g of ethyl (2-benzyl-3-oxo-2,3dihydro-1H-isoindol-1-yl)acetate in 5 cm3 of absolute ethanol. The reaction mixture is stirred at a temperature in the region of 20° C. for 18 hours and is then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in a mixture of 10 cm3 of water and 30 cm3 of diethyl ether and is then stirred at a temperature in the region of 0° C. for 15 minutes. The precipitate obtained is filtered off, washed with twice 10 cm3 of ice-cold water and then dried in a desiccator under reduced pressure (2 kPa) at a temperature in the region of 20° C. 1.2 g of N-[(2-benzyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine are thus obtained in the form of a white powder melting at 222-225° C. Infrared spectrum (KBr) 3488; 3410; 3344; 1662; 1621; 1521; 1382 and 704 cm−1.

reactant | sodium | 0.22 g | [Na] | Na
reactant | guanidinium chloride | 0.94 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (2-benzyl-3-oxo-2,3dihydro-1H-isoindol-1-yl)acetate | 2 g | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)CC(=O)OCC | C19H19NO3
solvent | ethanol | 5 cm3 | C(C)O | C2H6O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | N-[(2-benzyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 1.2 g | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)CC(=O)NC(=N)N | C18H18N4O2
